US06187923B1
To a mixture of 10.0 g (51.0 mmol) of 4,5-dimethoxyanthranilic acid in 80 mL of 1,4-dioxane was slowly added 100 mL (193 mmol) of a 1.93 molar solution of phosgene in toluene, at room temperature. The mixture was stirred overnight. The mixture was concentrated to yield a residue which was triturated with ethyl acetate-hexane (1:4), filtered, washed with hexane and dried to afford 11.0 g (97.2%) of the 4,5-dimethoxyisatoic anhydride as a gray solid. MS (Cl mode) m/z 206 (M-18, 100%), 224 (M+H, 51%).

reactant | 4,5-dimethoxyanthranilic acid | 51.0 mmol, 10.0 g | COC=1C=C(C(C(=O)O)=CC1OC)N | C9H11NO4
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4,5-dimethoxyisatoic anhydride | 11.0 g, 97.2% | COC=1C=C2C(C(=O)OC(N2)=O)=CC1OC | C10H9NO5
